US07704996B2
Step 74.1: 2,4-Dichloroprimidine-5-carboxylic acid
To a solution of the 2,4-dichloropyrimidine-5-carbonyl chloride (24 mmol) in THF (24 mL) is added H2O (0.64 mL) at room temperature. The reaction mixture is stirred at room temperature for 0.83 h and then diluted with H2O. The mixture is extracted with AcOEt. The organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give the crude titled compound; 1H NMR (CDCl3) δ 6.80 (brs, 1H), 9.18 (s, 1H).

reactant | 2,4-dichloropyrimidine-5-carbonyl chloride | 24 mmol | ClC1=NC=C(C(=N1)Cl)C(=O)Cl | C5HCl3N2O
reactant | THF | 24 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | H2O | 0.64 mL | O | H2O
product | 2,4-Dichloroprimidine-5-carboxylic acid | ClC1=NC=C(C(=N1)Cl)C(=O)O | C5H2Cl2N2O2
